US03939267
The mixture of 1.1 g of 4-(4-acetamidophenoxy)-3-furfurylamino-5-acetylsulfamoylbenzoic acid and 11 ml of 2N aqueous sodium hydroxide is refluxed for two hours under nitrogen. After cooling to room temperature it is filtered, the filtrate acidified with glacial acetic acid to a pH of 4- 5 and the precipitate formed filtered off. It is recrystallized from 70% aqueous ethanol, to yield the 4-(4-aminophenoxy)-3-furfurylamino-5-sulfamoylbenzoic acid melting at 233°-235°.

reactant | 4-(4-acetamidophenoxy)-3-furfurylamino-5-acetylsulfamoylbenzoic acid | 1.1 g | C(C)(=O)NC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(NC(C)=O)(=O)=O)NCC2=CC=CO2)C=C1 | C22H21N3O8S
reactant | sodium hydroxide | 2N, 11 ml | [OH-].[Na+]
product | 4-(4-aminophenoxy)-3-furfurylamino-5-sulfamoylbenzoic acid | NC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)NCC2=CC=CO2)C=C1 | C18H17N3O6S
